US09388140B2
Preparation of 6-bromo-N-(3,3,3-trifluoropropyl)-1H-benzimidazol-4-amine
To a stirred solution of intermediate tert-butyl 6-bromo-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazole-1-carboxylate (7.63 g, 18.69 mmol) in DCM (200 mL) at -rt was added water (20 mL) and TFA (200 mL). After stirring for 2 h, the solution was concentrated, ethyl acetate was added and the organic phase was washed with sodium carbonate solution and water. Evaporation of the yielded 5.17 g 6-bromo-N-(3,3,3-trifluoropropyl)-1H-benzimidazol-4-amine (89.8%).

reactant | tert-butyl 6-bromo-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazole-1-carboxylate | 18.69 mmol, 7.63 g | BrC=1C=C(C2=C(N(C=N2)C(=O)OC(C)(C)C)C1)NCCC(F)(F)F | C15H17BrF3N3O2
reactant | water | 20 mL | O | H2O
reactant | TFA | 200 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-N-(3,3,3-trifluoropropyl)-1H-benzimidazol-4-amine | BrC=1C=C(C2=C(NC=N2)C1)NCCC(F)(F)F | C10H9BrF3N3
